US08980911B2
N-[3-(2-Chloro-6-fluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]acetamide was prepared analogously using N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide and 2-chloro-6-fluoro benzoyl chloride (Compound No. 8).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide | N1C=CC=2C1=C(N=CC2)NC(C)=O | C9H9N3O
reactant | 2-chloro-6-fluoro benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
product | N-[3-(2-Chloro-6-fluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]acetamide | ClC1=C(C(=O)C2=CNC3=C(N=CC=C32)NC(C)=O)C(=CC=C1)F | C16H11ClFN3O2
